US08378017B2
3-Methoxyphenylmaleimide
Toluene (100 mL), triethylamine (10 g), methanesulfonic acid (15 g) were placed into a 500 ml, single-neck flask. Maleic anhydride (21.0 g, 214 millimoles) was dissolved into this mixture. This mixture was stirred magnetically at room temperature and m-anisidine (24.67 g, 200 millimoles) was then added drop-wise over a twenty minute period. A Dean-Stark trap and condenser were attached and the mixture was refluxed for three hours. A total of 3.7 ml of water was collected in the trap. The mixture was cooled to room temperature and the upper (toluene) phase was decanted off. The lower phase was extracted with 6×70 ml portions of fresh toluene. The collected toluene phase was passed over 27 grams of silica gel. The toluene was removed on a rotary evaporator to yield 27.3 g (67% of theory) of a clear yellow liquid. The product crystallized to a solid upon standing at room temperature. The solid melted at 75-76.5° C.

reactant | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | methanesulfonic acid | 15 g | CS(=O)(=O)O | CH4O3S
reactant | Maleic anhydride | 214 millimoles, 21.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | m-anisidine | 200 millimoles, 24.67 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
product | 3-Methoxyphenylmaleimide | COC=1C=C(C=CC1)C=1C(=O)NC(C1)=O | C11H9NO3
